US07544703B2
2-(2-Acetylaminopyridin-4-ylmethylsulfinyl)-N-(3,5-dimethylphenyl)pyridine-3-carboxamide (Compound No. 15-1)
m-Chloroperbenzoic acid(75%, 60 mg, 0.26 mmol) was added to a solution of 2-(2-acetylaminopyridin-4-ylmethylthio)-N-(3,5-dimethylphenyl)pyridine-3-carboxamide (Compound No. 4-1, 60 mg, 0.15 mmol) in methylene chloride (3 mL) under ice-cooling, and the mixture was stirred for 1 hour. The reaction mixture was diluted with ethyl acetate (30 mL), the whole was washed with saturated aqueous sodium hydrogen carbonate solution (10 mL) twice and brine (10 mL), and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the precipitated solid was filtered off with ethyl acetate to give 30 mg of the target compound as a colorless solid. (Yield 48%)

reactant | m-Chloroperbenzoic acid | 0.26 mmol, 60 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2-(2-acetylaminopyridin-4-ylmethylthio)-N-(3,5-dimethylphenyl)pyridine-3-carboxamide | C(C)(=O)NC1=NC=CC(=C1)CSC1=NC=CC=C1C(=O)NC1=CC(=CC(=C1)C)C | C22H22N4O2S
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 2-(2-Acetylaminopyridin-4-ylmethylsulfinyl)-N-(3,5-dimethylphenyl)pyridine-3-carboxamide | 30 mg, Yield 48% | C(C)(=O)NC1=NC=CC(=C1)CS(=O)C1=NC=CC=C1C(=O)NC1=CC(=CC(=C1)C)C | C22H22N4O3S
